US05364871
A suspension of 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (2.0 g), cycloheptanecarboxylic acid (1.02 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.50 g), 1-hydroxybenzotriazole hydrate (1.07 g) and triethylamine (1.24 g) in N,N-dimethylformamide (50 ml) was stirred at room temperature for 2 hours. The solvent was removed under reduced pressure. The residue was suspended in water (200 ml). The mixture was alkalized to pH 11 with a saturated aqueous potassium carbonate solution and then extracted with a mixture of ethyl acetate (250 ml) and tetrahydrofuran (50 ml). The extract was dried over magnesium sulfate and then was evaporated. The residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol =10:1. Recrystallization from a mixture of methanol, tetrahydrofuran and diisopropyl ether afforded 4-(2-cycloheptanecarbonylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole (0.72 g).

reactant | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 2.0 g | Cl.Cl.NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N
reactant | cycloheptanecarboxylic acid | 1.02 g | C1(CCCCCC1)C(=O)O | C8H14O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.50 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 1.07 g | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 1.24 g | C(C)N(CC)CC | C6H15N
product | 4-(2-cycloheptanecarbonylaminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole | 0.72 g | C1(CCCCCC1)C(=O)NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C16H22N6OS2
